US07342118B2
2-[2-(3,5-Difluoro-phenyl)-2-hydroxy-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide
2-Amino-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide was coupled with (3,5-Difluoro-phenyl)-hydroxy-acetic acid to afford the title compound: H1 NMR (400 MHz, CDCl3) 0.8 (m, 3H), 1.40 (m, 2H), 1.48 (s, 2H), 1.70, (m, 2H), 2.20 (m, 4H), 2.42, (m, 2H), 3.58 (m,4H), 4.80 (m, 0.5H), 4.90 (m, 0.5H), 5.12 (m, 0.5H), 5.20 (m, 0.5H), 6.72 (m, 1H) 7.08 (m, 2H), 7.39 (s, 0.5H) 7.40 (s, 0.5H), 7.46 (s, 0.5H), 7.47 (s,0.5H); MS m/z 494.4 (M+1).

reactant | 2-Amino-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCOCC1)(C)N1C=NC(=C1)NC(C(CCC)N)=O | C16H29N5O2
reactant | (3,5-Difluoro-phenyl)-hydroxy-acetic acid | FC=1C=C(C=C(C1)F)C(C(=O)O)O | C8H6F2O3
product | 2-[2-(3,5-Difluoro-phenyl)-2-hydroxy-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCOCC1)(C)N1C=NC(=C1)NC(C(CCC)NC(C(O)C1=CC(=CC(=C1)F)F)=O)=O | C24H33F2N5O4
